US04859683
To a solution of 100 mg (0.52 mmol) 5-(o-hydroxyphenyl)-2-methyl-2-pentanol in 2 ml chloroform is added 25 mg (25 wt %) of p-tosic acid in one portion. The resulting solution is then heated at 80° C. for 2 hours. The reaction mixture is then diluted with methylene chloride and washed with a sat. solution of sodium bicarbonate. The organic layer is dried (MgSO4), filtered and concentrated to obtain 2,2-dimethyl-2,3,4,5-tetrahydro-1-benzoxepin which is used directly in the next step.

reactant | 5-(o-hydroxyphenyl)-2-methyl-2-pentanol | 0.52 mmol, 100 mg | OC1=C(C=CC=C1)CCCC(C)(O)C | C12H18O2
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-2,3,4,5-tetrahydro-1-benzoxepin | CC1(OC2=C(CCC1)C=CC=C2)C | C12H16O
